US04575504
2-Amino-7-(4-chlorobenzyl)-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine dihydrochloride
This compound was prepared from 2-amino-6-(4-chlorobenzyl)-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine dihydrochloride, potassium thiocyanate and bromine analogous to Example 1.

reactant | 2-amino-6-(4-chlorobenzyl)-5,6,7,8-tetrahydro-4H-thieno[2,3-d]azepine dihydrochloride | Cl.Cl.NC1=CC2=C(CCN(CC2)CC2=CC=C(C=C2)Cl)S1
reactant | potassium thiocyanate | [S-]C#N.[K+]
reactant | bromine | BrBr | Br2
product | 2-Amino-7-(4-chlorobenzyl)-6,7,8,9-tetrahydro-5H-thiazolo[4',5':5,4]thieno[2,3-d]azepine dihydrochloride | Cl.Cl.NC=1SC2=C(SC=3CCN(CCC32)CC3=CC=C(C=C3)Cl)N1 | InChI=1S/C16H16ClN3S2.2ClH/c17-11-3-1-10(2-4-11)9-20-7-5-12-13(6-8-20)21-15-14(12)22-16(18)19-15;;/h1-4H,5-9H2,(H2,18,19);2*1H
